US05663200
50c) 5(S)-[1(S)-(Boc-Amino)-2-phenylethyl]-3(R)-[(2-methoxyphenyl)methyl]dihydrofuran-2-(3H)-one
A solution of 1 g (3.275 mmol) of 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]dihydrofuran-2-(3H)-one [Example 2b)] in 4 ml of abs. THF and 0.66 ml of DMPU (1.67 equivalents) is cooled down to -75° C., under argon, and treated dropwise, at an internal temperature of below -70° C. and over the space of 30 min, with 6.42 ml (1.96 equivalents) of a 1M solution of lithium bis(trimethylsilyl)amide in THF (Aldrich, Steinheim, FRG). After a further 15 min, 812 mg (3.275 mmol) of 2-methoxybenzyl iodide, dissolved in 2 ml of THF, are added dropwise to this mixture within the space of 10 min, and the whole is allowed to react at -70° C. for 2 h. 1.22 ml of propionic acid and 1.22 ml of water are subsequently added to this solution, and the temperature is allowed to rise to 0° C. The reaction mixture is diluted with 50 ml of (cold) ethyl acetate and stirred, for 5 min, with 20 ml of (cold) 10% citric acid, and, after that, the phases are separated. The organic phase is washed, in succession, with saline, sat. sodium bicarbonate solution and once again with saline, dried over Na2SO4 and concentrate. The title compound is isolated by means of flash chromatography on silica gel (hexane:ethyl acetate=3:1). TLC Rf (hexane:ethyl acetate=3:1)=0.54. MS M+ =455. HPLC tRet =17.09 min (gradient II). IR(CH2Cl2)=inter alia 3429, 1769, 1712, and 1495 cm-1. 1H-NMR(CDCl3)=inter alia 7.38-7.13/m (5H); 7.20/d (1H); 7.08/d (1H); 6.87/t (1H); 6.81/d (1H); 3.74/s (3H); 1.34/s (9H).

reactant | 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]dihydrofuran-2-(3H)-one | 3.275 mmol, 1 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)[C@@H]1CCC(O1)=O | C17H23NO4
reactant | DMPU | 0.66 ml, 1.67 equivalents | CN1CCCN(C1=O)C | C6H12N2O
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 2-methoxybenzyl iodide | 3.275 mmol, 812 mg | COC1=C(CI)C=CC=C1 | C8H9IO
reactant | propionic acid | 1.22 ml | C(CC)(=O)O | C3H6O2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 1.22 ml | O | H2O
product | 5(S)-[1(S)-(Boc-Amino)-2-phenylethyl]-3(R)-[(2-methoxyphenyl)methyl]dihydrofuran-2-(3H)-one | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)[C@@H]1C[C@H](C(O1)=O)CC1=C(C=CC=C1)OC | C25H31NO5
